US05449783
2.70 g of chloromethanesulfonyl chloride was dropped into a solution of 2.27 g of 2-amino-4,5-diphenylthiazole in pyridine under stirring at room temperature, and the resulting mixture was stirred as such for 2 hours. Then the reaction mixture was poured into ice-water and the crystals thus precipitated were recovered by filtration and separated with a silica gel column by using isopropyl ether and ethyl acetate as a developer. The crystals thus obtained were recrystallized from isopropyl ether/ethyl acetate to give 1.45 g of 2-chloromethanesulfonylamino-4,5-diphenylthiazole. The melting point of this product was from 201° to 203° C.

reactant | chloromethanesulfonyl chloride | 2.70 g | ClCS(=O)(=O)Cl | CH2Cl2O2S
reactant | 2-amino-4,5-diphenylthiazole | 2.27 g | NC=1SC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C15H12N2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-chloromethanesulfonylamino-4,5-diphenylthiazole | 1.45 g | ClCS(=O)(=O)NC=1SC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H13ClN2O2S2
